US04429140
The same procedure as in Example 8 is repeated with the exception of using 30.3 g of sorbitol, 45.7 g of p-methoxybenzaldehyde, 1.0 g of p-toluenesulfonic acid, 8 ml of cyclohexanone, 175 ml of C8 -C10 saturated hydrocarbons and 8 ml of amyl alcohol. The materials are reacted for 3 hours, giving a semisolid reaction mixture. The mixture is similarly treated thereafter, affording di-(p-methoxybenzylidene)sorbitol in a yield of 92% with a purity of 99%.

reactant | sorbitol | 30.3 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | p-methoxybenzaldehyde | 45.7 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | p-toluenesulfonic acid | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | cyclohexanone | 8 ml | C1(CCCCC1)=O | C6H10O
reactant | amyl alcohol | 8 ml | C(CCCC)O | C5H12O
product | di-(p-methoxybenzylidene)sorbitol | yield of 92% | COC1=CC=C(C=C([C@H]([C@H]([C@@H]([C@H](C(O)=CC2=CC=C(C=C2)OC)O)O)O)O)O)C=C1 | C22H26O8
